US06410550B1
B) 4-Chloro-10-azatricyclo[6.3.1.02,7]dodeca-2(7),3,5-triene hydrochloride
1-(4-Chloro-10-aza-tricyclo[6.3.1.02,7]dodeca-2(7),3,5-trien-10-yl)-2,2,2-trifluoro-ethanone (470 mg, 1.62 mmol) and Na2CO3 (344 mg, 3.24 mmol) in MeOH (30 mL) and H2O (10 mL) were heated to reflux. After 2 hours, the reaction was cooled and diluted with water then extracted with EtOAc (4×40 mL), dried (Na2SO4), filtered and concentrated to a yellow oil. The crude material was treated with excess 3N HCl EtOAc and concentrated, then dissolved in a minimum of CH2Cl2 and the solution was saturated with hexanes and stirred, After stirring 4 hours the product was collected by filtration (155 mg, 42% ). 1H NMR (free base) (400 MHz, CDCl3) δ7.15 (m, 2H), 7.09 (d, J=8.0 Hz, 1H), 3.00-2.94 (m, 4H), 2.68, (m, 2H), 2.38 (m, 1H), 1.92 (d, J=10.5 Hz, 1H). 1H NMR (HCl salt) (400 MHz, DMSO-d6) δ7.30-7.20 (m, 3H), 3.30-3.15 (m, 6H), 2.37 (m, 1H), 1.89 (d, J=11.0 Hz, 1H). APCl MS m/e 194.1 [(M+1)+].

reactant | 1-(4-Chloro-10-aza-tricyclo[6.3.1.02,7]dodeca-2(7),3,5-trien-10-yl)-2,2,2-trifluoro-ethanone | 1.62 mmol, 470 mg | ClC1=CC=2C3CN(CC(C2C=C1)C3)C(C(F)(F)F)=O | C13H11ClF3NO
reactant | Na2CO3 | 3.24 mmol, 344 mg | C(=O)([O-])[O-].[Na+].[Na+]
solvent | MeOH | 30 mL | CO | CH4O
solvent | H2O | 10 mL | O | H2O
product | 4-Chloro-10-azatricyclo[6.3.1.02,7]dodeca-2(7),3,5-triene hydrochloride | Cl.ClC1=CC=2C3CNCC(C2C=C1)C3 | InChI=1S/C11H12ClN.ClH/c12-9-1-2-10-7-3-8(6-13-5-7)11(10)4-9;/h1-2,4,7-8,13H,3,5-6H2;1H
